US09403818B2
Preparation of methyl 8-(3-methyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate
Methyl 8-(3-methyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate was prepared according to General Procedure A′ from methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate (100 mg, 0.34 mmol) and (3-methyl-1H-indazol-5-yl)boronic acid (176.1 mg, 0.41 mmol). Purification by flash silica column chromatography (DCM:MeOH) (1:0 to 9:1) afforded the title compound as a yellow solid (120 mg, 88%).

reactant | methyl 8-chloro-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 0.34 mmol, 100 mg | ClC=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C15H14ClNO3
reactant | (3-methyl-1H-indazol-5-yl)boronic acid | 0.41 mmol, 176.1 mg | CC1=NNC2=CC=C(C=C12)B(O)O | C8H9BN2O2
product | methyl 8-(3-methyl-1H-indazol-5-yl)-1-cyclopropyl-9-methyl-4-oxo-4H-quinolizine-3-carboxylate | 120 mg, 88% | CC1=NNC2=CC=C(C=C12)C=1C=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)OC)=O | C23H21N3O3
